US07592363B2
Preparation of 3-(4-Fluoro-phenyl)-7-trifluoromethyl-1H-indazole
(2-Fluoro-3-trifluoromethyl-phenyl)-(4-fluoro-phenyl)-methanone (6.58 g, 23 mmol) was dissolved in 20 ml of pyridine. Hydrazine hydrate (7.36 mL, 230 mmol) and 4-(dimethylamino)-pyridine (2.8 g, 23 mmol) were added. The reaction mixture was stirred overnight at 110° C. After cooling to room temperature, EtOAc and 2N HCl were added. The organic phase was washed three times with brine, dried over NaSO4 and concentrated under vacuum. Purification of the crude product by plug filtration (silica gel, CH2Cl2) provided 5.18 g product as a white solid.

reactant | (2-Fluoro-3-trifluoromethyl-phenyl)-(4-fluoro-phenyl)-methanone | 23 mmol, 6.58 g | FC1=C(C=CC=C1C(F)(F)F)C(=O)C1=CC=C(C=C1)F | C14H7F5O
reactant | Hydrazine hydrate | 230 mmol, 7.36 mL | O.NN
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | HCl | 2N | Cl | ClH
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-(dimethylamino)-pyridine | 23 mmol, 2.8 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-(4-Fluoro-phenyl)-7-trifluoromethyl-1H-indazole | 5.18 g | FC1=CC=C(C=C1)C1=NNC2=C(C=CC=C12)C(F)(F)F | C14H8F4N2
